US07956195B2
To a slurry of (5R,7S)-7-(4-bromo-phenyl)-3-methyl-1,3-diaza-spiro[4.4]nonane-2,4-dione (79 g, 0.24 mol) in water (1 L) was added 2 M aqueous NaOH (1 L, 2 mol) and dioxane (200 mL). The resulting mixture was heated to reflux for 24 hours. The reaction mixture was cooled to room temperature, diluted with water (2 L) and acidified with concentrated HCl until a precipitate began to form (about pH 7). Acetic acid (about 20 mL) was added, producing a thick precipitate. The white precipitate was collected and washed with water (2×1 L) and EtOAc (1 L). The filter cake was suspended in toluene (1 L) and concentrated in vacuo at 45° C. This process was repeated once more. The white precipitate was dried to a constant weight under vacuum to give (1R,3S)-1-amino-3-(4-bromo-phenyl)-cyclopentanecarboxylic acid (65 g, 95%).

reactant | (5R,7S)-7-(4-bromo-phenyl)-3-methyl-1,3-diaza-spiro[4.4]nonane-2,4-dione | 0.24 mol, 79 g | BrC1=CC=C(C=C1)[C@@H]1C[C@@]2(C(N(C(N2)=O)C)=O)CC1 | C14H15BrN2O2
reactant | NaOH | 2 mol, 2 M, 1 L | [OH-].[Na+]
reactant | dioxane | 200 mL | O1CCOCC1 | C4H8O2
reactant | HCl | Cl | ClH
solvent | water | 1 L | O | H2O
solvent | water | 2 L | O | H2O
solvent | Acetic acid | about 20 mL | C(C)(=O)O | C2H4O2
product | (1R,3S)-1-amino-3-(4-bromo-phenyl)-cyclopentanecarboxylic acid | 65 g, 95% | N[C@]1(C[C@H](CC1)C1=CC=C(C=C1)Br)C(=O)O | C12H14BrNO2
